US07655671B2
Synthesis of (17R)-17-cyclopropylmethyl-4,5α-epoxy-3-hydroxy-17-methyl-6-oxo-14β-[(2-phenylbenzyl)oxy]morphinanium-iodide (compound 50)
A solution of 17-cyclopropylmethyl-4,5α-epoxy-3-hydroxy-14β-[(2-phenylbenzyl)oxy]morphinan-6-one (0.39 g, 0.76 mmol) and methyl iodide (0.54 g, 3.79 mmol) in 6 ml of water-free acetonitrile was stirred under N2 at 40° C. (bath temperature) for 2 days and then evaporated down. The residue (0.5 g of brown oil) was purified using column chromatography (silica gel; CH2Cl2/MeOH 250:4). Yield: 0.02 g (4%) of beige crystals of the compound 50. Fp. 219-221° C.; MS (CI): 522 (M+); IR (KBr): 1725 (C═O) cm−1; 1H-NMR (DMSO-d6): δ 9.53 (s, OH), 7.68-7.25 (m, 9 arom. H), 6.67 (s, 2 arom. H), 4.73 (d, C14-OCH2), 4.61 (s, CH-5), 3.26 (s, CH3N+, axial).

reactant | 17-cyclopropylmethyl-4,5α-epoxy-3-hydroxy-14β-[(2-phenylbenzyl)oxy]morphinan-6-one | 0.76 mmol, 0.39 g | C1(CC1)CN1[C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)=O)OCC1=C(C=CC=C1)C1=CC=CC=C1 | C33H33NO4
reactant | methyl iodide | 3.79 mmol, 0.54 g | CI | CH3I
solvent | water | 6 ml | O | H2O
product | (17R)-17-cyclopropylmethyl-4,5α-epoxy-3-hydroxy-17-methyl-6-oxo-14β-[(2-phenylbenzyl)oxy]morphinanium-iodide | [I-].C1(CC1)C[N@@+]1([C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)=O)OCC1=C(C=CC=C1)C1=CC=CC=C1)C | InChI=1S/C34H35NO4.HI/c1-35(20-22-11-12-22)18-17-33-30-24-13-14-27(36)31(30)39-32(33)28(37)15-16-34(33,29(35)19-24)38-21-25-9-5-6-10-26(25)23-7-3-2-4-8-23;/h2-10,13-14,22,29,32H,11-12,15-21H2,1H3;1H/t29-,32+,33+,34-,35-;/m1./s1
